US09193669B2
Reaction between 2,2-diethyloxirane and 2-(3-(3-aminophenyl)propyl)isoindoline-1,3-dione gives 2-(3-(3-((2-ethyl-2-hydroxybutyl)amino)phenyl)propyl)isoindoline-1,3-dione.

reactant | 2,2-diethyloxirane | C(C)C1(OC1)CC | C6H12O
reactant | 2-(3-(3-aminophenyl)propyl)isoindoline-1,3-dione | NC=1C=C(C=CC1)CCCN1C(C2=CC=CC=C2C1=O)=O | C17H16N2O2
product | 2-(3-(3-((2-ethyl-2-hydroxybutyl)amino)phenyl)propyl)isoindoline-1,3-dione | C(C)C(CNC=1C=C(C=CC1)CCCN1C(C2=CC=CC=C2C1=O)=O)(CC)O | C23H28N2O3
